US08486952B2
A solution of 7-(4-fluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (13.527 g, 54.7 mmol) in concentrated ammonium hydroxide (150 mL, 3852 mmol) was heated at 100° C. in a high-pressure (350 mL) vessel overnight. The reaction mixture was cooled to 0° C. and filtered. The precipitate was consecutively washed with water and dried, first—by passing air through the filter, and then—in pump vacuum to give 7-(4-fluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (4.670 g, 18.97 mmol, 34.7% yield). LC-MS (M+H)+=247.3. 1H NMR (500 MHz, CDCl3) δ ppm 11.70-11.81 (2H, br s), 7.31-7.39 (2H, m), 7.16-7.22 (2H, m), 4.30-4.38 (1H, m), 2.63-2.73 (1H, m), 2.53-2.63 (2H, m), 1.84-1.95 (1H, m).

reactant | 7-(4-fluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 54.7 mmol, 13.527 g | FC1=CC=C(C=C1)C1CCC=2C(NC(OC21)=O)=O | C13H10FNO3
reactant | ammonium hydroxide | 3852 mmol, 150 mL | [OH-].[NH4+]
product | 7-(4-fluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 18.97 mmol, 4.670 g, 34.7% yield | FC1=CC=C(C=C1)C1CCC2=C1NC(NC2=O)=O | C13H11FN2O2
